data/mechanism_extracts/GreenChem/10.1039_d5gc03300d.json
{"doi": "10.1039_d5gc03300d", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical oxidative synthesis of tetralones from styrenes (olefins) and water using a platinum nanoparticle anode, proceeding via radical cation intermediate and intramolecular Friedel-Crafts annulation", "mechanism_family": ["radical_cation", "radical_polar_crossover", "direct_SET", "paired_electrolysis"], "electrochemical_role": "Anodic single-electron oxidation of styrene to a styryl radical cation; second anodic oxidation of a benzylic radical to a benzylic carbocation; cathodic reduction of protons to H2", "key_intermediates": [{"name": "styrene radical cation (A)", "smiles": "[CH2]=[CH][c]1ccccc1", "role": "reactive"}, {"name": "distal 1,4-radical cation from styrene dimerization (B)", "smiles": null, "role": "reactive"}, {"name": "Wheland-type cyclohexadienyl radical cation from Friedel-Crafts annulation (C)", "smiles": null, "role": "transient"}, {"name": "tetralinyl benzylic radical after deprotonation (D)", "smiles": null, "role": "reactive"}, {"name": "tetralinyl benzylic carbocation (E)", "smiles": null, "role": "reactive"}, {"name": "tetralin-1-ol intermediate (F, 3a')", "smiles": "OC1CCC(c2ccccc2)c3ccccc13", "role": "transient"}, {"name": "tetralone product (3a/3b)", "smiles": "O=C1CCC(c2ccccc2)c3ccccc13", "role": "reactive"}], "electron_flow": "Anode oxidizes styrene by SET to a radical cation, which couples with a second styrene to give a distal 1,4-radical cation; intramolecular Friedel-Crafts annulation and -H+ yields a benzylic radical, which is further oxidized at the anode to a carbocation that is trapped by water; subsequent oxidation/deprotonation gives the tetralone, while protons are reduced to H2 at the cathode.", "rate_determining_step": "Initial anodic single-electron oxidation of the styrene to its radical cation (consistent with measured oxidation potential ~1.96 V vs SHE and DFT 1.922 V)", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction significantly inhibited; TEMPO-adduct 3v detected by HRMS, supporting a radical intermediate"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Radical addition product 3x detected by HRMS, indicating a styryl/benzylic radical species"}, {"name": "tetralin-1-ol intermediate 3a'", "smiles": "OC1CCC(c2ccccc2)c3ccccc13", "purpose": "intermediate_trap", "observation": "Isolated in 17% yield at half reaction time; resubjection under standard conditions delivered tetralone 3a in 95% yield, confirming it as on-pathway"}, {"name": "H2(18)O", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "18O is incorporated into product 3a'' (HRMS), proving the carbonyl oxygen comes from water, not O2"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_other", "stoichiometric_intermediate", "cyclic_voltammetry", "isolation_of_intermediate", "H/D_labeling", "DFT"], "evidence_strength": "strong", "notes": "CV shows two oxidative overpotentials (+1.74 V and +2.17 V vs Ag/AgCl), consistent with sequential SET steps (styrene -> radical cation; benzylic radical D -> carbocation E). DFT computes substrate oxidation potential (1.922 V vs SHE) closely matching the experimental 1.964 V, and shows the A->D pathway is energetically downhill with a low barrier (TS1 at +3.38 kcal/mol). Substrates with strong electron-withdrawing groups, beta-methylstyrene, pyridine, and thiophene fail, consistent with the requirement to form a stabilized styryl radical cation on an electron-rich arene."}
